US08350045B2
15 ml of demineralized water is charged into a round-bottomed flask kept at 25° to 30° C. and then slowly 243 ml of 90% Conc. H2SO4 is added and the temperature is raised to 10° C.-20° C. under stirring. Slowly 50 g of 1-(4-methylphenyl)-1-(2-pyridyl)-3-pyrrolidinopropan-1-ol is charged and the temperature is maintained at 20° C. under stirring. The reaction mass is heated to 100-105° C. and the temperature is maintained for 4 hours under stirring. After completion of the reaction, the reaction mass is cooled to 25°-30° C., and then poured into ice cold water (1 litre) at 5-10° C. under stirring over a period of an hour. 50% NaOH solution (w/w) is added slowly to the reaction mixture by maintaining the temperature at 5° to 20° C. over a period of 2 hours and the contents are stirred for an hour at 25° to 30° C. The reaction mixture is filtered under suction to obtain 51.3 g of wet triprolidine base comprising >92% E-isomer along with <8% Z-isomer. 500 ml of demineralized water and 51.3 g of wet triprolidine base are charged into a round-bottom flask at 25° to 30° C. and the contents are stirred for 3 hours by maintaining the same temperature. The contents are filtered and dried under suction for 2 hours. The process is repeated thrice to obtain 1-(4-methylphenyl)-1-(2-pyridyl)-3-pyrrolidino prop-1-ene (38 g, 81.2%) consisting of >98% E isomer along with <2% Z-isomer.

reactant | H2SO4 | 243 ml | OS(=O)(=O)O | H2O4S
reactant | 1-(4-methylphenyl)-1-(2-pyridyl)-3-pyrrolidinopropan-1-ol | 50 g | CC1=CC=C(C=C1)C(CCN1CCCC1)(O)C1=NC=CC=C1 | C19H24N2O
reactant | NaOH | [OH-].[Na+]
solvent | water | 15 ml | O | H2O
product | triprolidine | 51.3 g | CC=1C=CC(=CC1)/C(=C\CN2CCCC2)/C=3C=CC=CN3 | C19H22N2
